US05602101
EXAMPLE 5 NMI-D-Cha-Pro-Arg-H.HCl
By methods substantially equivalent to those described in Example 1-A, 1-B, 1-C, 1-D, 1-H and 1-I, 2.14 g of NMI-D-Cha-Pro-Arg-H.HCl hydrate was prepared using Boc-D-Cha-OH in place of Boc-D-Phe-OH. Also, the tripeptide arginine lactam was reduced with LiAl(O-t-Bu)3H at -23° C. rather than LAH at -78° C.

reactant | D-Cha-Pro-Arg-H.HCl hydrate | N[C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1.Cl.O
reactant | Boc-D-Cha-OH | N([C@H](CC1CCCCC1)C(=O)O)C(=O)OC(C)(C)C | C14H25NO4
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | D-Cha-Pro-Arg-H.HCl | N[C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1.Cl | InChI=1S/C20H36N6O3.ClH/c21-16(12-14-6-2-1-3-7-14)19(29)26-11-5-9-17(26)18(28)25-15(13-27)8-4-10-24-20(22)23;/h13-17H,1-12,21H2,(H,25,28)(H4,22,23,24);1H/t15-,16+,17-;/m0./s1
